US04284628
15.0 g of N-(1',2',2',2'-tetrachloroethyl)-2-acetoxybenzamide and 5.65 g of p-cresol were dissolved in 250 ml of acetone. 5.3 g of triethylamine were added dropwise thereto at a temperature below 12° C. After effecting the reaction at room temperature for 30 minutes, the reaction mixture was poured into water. 15.2 g of white N-(1'-p-methylphenoxy-2',2',2'-trichloroethyl)-2-acetoxybenzamide were obtained. The compound was suspended in 300 ml of ethanol, then 3.6 ml of concentrated hydrochloric acid were added thereto and the reaction was carried out at --60°-70° C. for three hours. After cooling, the reaction mixture was poured into water to obtain 14.3 g of N-(1'-p-methylphenoxy-2',2',2'-trichloroethyl)-2-hydroxbenzamide as white crystals. M.p. 126°-127° C.

reactant | N-(1',2',2',2'-tetrachloroethyl)-2-acetoxybenzamide | 15.0 g | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C11H9Cl4NO3
reactant | p-cresol | 5.65 g | C1=CC(=CC=C1O)C | C7H8O
reactant | triethylamine | 5.3 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | N-(1'-p-methylphenoxy-2',2',2'-trichloroethyl)-2-acetoxybenzamide | 15.2 g | CC1=CC=C(OC(C(Cl)(Cl)Cl)NC(C2=C(C=CC=C2)OC(C)=O)=O)C=C1 | C18H16Cl3NO4
